US07034039B2
A solution of tert-butyl(6-amino-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.41 g, 1 mmol) and 2,5-dimethoxytetrahydrofuran (0.19 ml, 1.5 mmol) in acetic acid (10 ml) was stirred at 80° C. for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(1H-pyrrol-1-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.31 g, 67.4%) as crystals.

reactant | tert-butyl(6-amino-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 1 mmol, 0.41 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)N)=O)CC(C)C)=O | C23H35N3O4
reactant | 2,5-dimethoxytetrahydrofuran | 1.5 mmol, 0.19 ml | COC1OC(CC1)OC | C6H12O3
reactant | water | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | tert-butyl[4-butoxy-2-isobutyl-1-oxo-6-(1H-pyrrol-1-yl)-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.31 g, 67.4% | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)N1C=CC=C1)=O)CC(C)C)=O | C27H37N3O4
